US07943609B2
4-{(2S)-3-Hydroxy-2-[(3-nitroquinolin-4-yl)amino]propyl}phenol (21.69 g, 64.5 mmol) was dissolved in 100 mL of dry pyridine and treated with tert-butyldimethylsilyl chloride (22.4 g, 148 mmol) and a catalytic amount of DMAP (0.79 g, 6.45 mmol). The reaction mixture was stirred under N2 and heated to 40° C. After 2.5 days, the reaction mixture was concentrated under reduced pressure. The resulting orange residue was partitioned between 200 mL of ethyl acetate and 200 mL of H2O. The layers were separated and the organic portion was washed sequentially with H2O and brine. The organic layer was then dried over Na2SO4, filtered, and concentrated under reduced pressure to give N-[(1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-{[tert-butyl(dimethyl)silyl]oxy}benzyl)ethyl]-3-nitroquinolin-4-amine (25.24 g) as an orange solid.

reactant | 4-{(2S)-3-Hydroxy-2-[(3-nitroquinolin-4-yl)amino]propyl}phenol | 64.5 mmol, 21.69 g | OC[C@H](CC1=CC=C(C=C1)O)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C18H17N3O4
reactant | tert-butyldimethylsilyl chloride | 148 mmol, 22.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 6.45 mmol, 0.79 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[(1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-{[tert-butyl(dimethyl)silyl]oxy}benzyl)ethyl]-3-nitroquinolin-4-amine | 25.24 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C30H45N3O4Si2
